US05486533
Preparation of 1-(1,1-dimethylethyl)-4-(2-propenyloxy)benzene (Compound I-4)
A mixture of 45 g 4-(1,1-dimethylethyl)phenol, 30 g 3-chloro-1-propene, 50 g anhydrous potassium carbonate and 250 ml 2-butanone was refluxed for 15 hours, after which time the solvent was removed in a rotary evaporator. Water was added to dissolve the potassium salts and the product extracted twice with ether. The ether layer was dried, removed, and the product distilled. The 50 grams of 1-(1,1-dimethylethyl)-4-(2-propenyloxy)benzene was found to boil at 70°-75° C. at 0.2 mm Hg, listed in Table 1 as compound I-4)

reactant | 4-(1,1-dimethylethyl)phenol | 45 g | CC(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | 3-chloro-1-propene | 30 g | ClCC=C | C3H5Cl
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 250 ml | CC(CC)=O | C4H8O
product | 1-(1,1-dimethylethyl)-4-(2-propenyloxy)benzene | CC(C)(C)C1=CC=C(C=C1)OCC=C | C13H18O
